US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-methoxyethanamide
To a solution of 920 mg (1.85 mmoles) of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide trihydrochloride in 20 ml of anhydrous methanol was added 2 ml of 2N hydrogen chloride-methanol. The mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure and the resulting white powder was dissolved in 15 ml of water. The aqueous solution was adjusted to pH 6 with 1N aqueous sodium hydroxide solution, then passed through a column (25 mm inner diameter) packed with 300 ml of CM-Sephadex® C-25 (Na-type) and fractionated by the gradient elution method with each 2 liters of water and 1M aqueous sodium chloride solution (fraction size, 17 ml). The fractions No. 138 to No. 152 corresponding to the sodium chloride concentrations of 0.59-0.65M were combined, evaporated to dryness and extracted twice with 10 ml of methanol. The methanol layer was passed through a column (25 mm inner diameter) packed with 300 ml of Sephadex® LH-20 and developed with methanol (fraction size, 7 ml). Fractions No. 18 to No. 32 were combined and evaporated to dryness, yielding 607 mg (64% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-methoxyethanamide trihydrochloride.

reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide trihydrochloride | 1.85 mmoles, 920 mg | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(CCCCCCNC(=N)N)=O)=O
reactant | hydrogen chloride methanol | 2N, 2 ml | Cl.CO
reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-methoxyethanamide trihydrochloride | Cl.Cl.Cl.NCCCNCCCCNC(C(OC)NC(CCCCCCNC(=N)N)=O)=O
solvent | methanol | 20 ml | CO | CH4O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-methoxyethanamide | 607 mg, 64% yield | NCCCNCCCCNC(C(OC)NC(CCCCCCNC(=N)N)=O)=O | C18H39N7O3
